US06900309B1
6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylic acid
To a suspension of 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile (12.5 g, 0.0368 moles) (Preparation 15) in a mixture of industrial methylated spirits (80 ml) and deionised water (35 ml) was added sodium hydroxide (1.2 g, 0.13 moles) and the resultant mixture was heated under reflux for 17 hours during which time a clear solution was formed. The mixture was cooled to ambient temperature and was acidified by the addition of 1 M aqueous hydrochloric acid solution (105 ml) to give a suspension. The solid was collected by filtration and was dried under reduced pressure at 50° C. to give the title compound as a colourless solid (13.5 g), m.p. 241-249° C.

reactant | 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile | 0.0368 moles, 12.5 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C#N)C1=CC=CC=C1 | C20H16N6
reactant | sodium hydroxide | 0.13 moles, 1.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 105 ml | Cl | ClH
reactant | water | 35 ml | O | H2O
product | 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylic acid | 13.5 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)O)C1=CC=CC=C1 | C20H17N5O2
